US08487105B2
Preparation of Pitavastatin Free Acid
From pitavastatin calcium salt: 20 g of pitavastatin calcium salt was taken in 100 ml of dichloro methane and stirred for 10 minutes. Cooled the reaction mixture to 0° C. and adjusted the pH to 3.0 with 20% aqueous HCl solution. 60 g of sodium chloride is added to the reaction mixture and stirred for 10 minutes. Raised the temperature to 25° C. and stirred for 30 minutes. Filtered the solid precipitated. Water was added to the solid and stirred for 10 minutes. Filtered the solid and washed with water. Dried the obtained solid to get the title compound.

reactant | pitavastatin calcium | C1=CC=2C(=C(C(=NC2C=C1)C3CC3)/C=C/[C@@H](O)C[C@@H](O)CC(=O)[O-])C4=CC=C(C=C4)F.C1=CC=2C(=C(C(=NC2C=C1)C3CC3)/C=C/[C@@H](O)C[C@@H](O)CC(=O)[O-])C4=CC=C(C=C4)F.[Ca+2]
reactant | pitavastatin calcium | 20 g | C1=CC=2C(=C(C(=NC2C=C1)C3CC3)/C=C/[C@@H](O)C[C@@H](O)CC(=O)[O-])C4=CC=C(C=C4)F.C1=CC=2C(=C(C(=NC2C=C1)C3CC3)/C=C/[C@@H](O)C[C@@H](O)CC(=O)[O-])C4=CC=C(C=C4)F.[Ca+2]
reactant | HCl | Cl | ClH
reactant | sodium chloride | 60 g | [Cl-].[Na+]
solvent | dichloro methane | 100 ml | ClCCl | CH2Cl2
product | Pitavastatin | C=1C=CC2=C(C1)C(=C(C(=N2)C3CC3)/C=C/[C@H](C[C@H](CC(=O)O)O)O)C=4C=CC(=CC4)F | C25H24FNO4
